US04086350
Similarly, 6.3 g. (0.02 mol) of 4-(2-chloro-9-thioxanthenylidene)piperidine in 30 ml. of benzene is treated with a solution of 1.2 g. (0.01 mol) of cyclobutylcarboxylic acid chloride in 10 ml. of benzene. Following the above workup procedure, the intermediate amide is reduced with 1.5 g. (0.04 mol) of lithium aluminum hydride in 50 ml. of ether. After isolation of the amine product, the ether is evaporated in vacuo and a hexamate salt formed of 4-(2-chloro-9-thioxanthenylidene)-1-cyclobutylmethylpiperidine, m.p. 180°-182° C.

reactant | 4-(2-chloro-9-thioxanthenylidene)piperidine | 0.02 mol | ClC1=CC=2C(C3=CC=CC=C3SC2C=C1)=C1CCNCC1 | C18H16ClNS
reactant | benzene | C1=CC=CC=C1 | C6H6
reactant | cyclobutylcarboxylic acid chloride | 0.01 mol | C1(CCC1)C(=O)Cl | C5H7ClO
reactant | lithium aluminum hydride | 0.04 mol | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | ether | CCOCC | C4H10O
product | 4-(2-chloro-9-thioxanthenylidene)-1-cyclobutylmethylpiperidine | ClC1=CC=2C(C3=CC=CC=C3SC2C=C1)=C1CCN(CC1)CC1CCC1 | C23H24ClNS
